US08431569B2
Step 9. 4-{[tert-Butyl(dimethyl)silyl]oxy}-3-fluorocyclohexyl methanesulfonate
To a stirred solution of 4-{[tert-butyl(dimethyl)silyl]oxy}-3-fluorocyclohexanol (500 mg, 2.01 mmol) and TEA (0.56 mL, 4.03 mmol) in DCM (5 mL) was added MsCl (0.28 mL, 3.6 mmol) at 0° C. The reaction mixture was warmed to room temperature, left to stir for 1 h, treated with sodium bicarbonate solution, and neutralized with 1 N HCl. The mixture was extracted with DCM. The combined organics were dried, and concentrated to afford the title compound.

reactant | 4-{[tert-butyl(dimethyl)silyl]oxy}-3-fluorocyclohexanol | 2.01 mmol, 500 mg | [Si](C)(C)(C(C)(C)C)OC1C(CC(CC1)O)F | C12H25FO2Si
reactant | MsCl | 3.6 mmol, 0.28 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-{[tert-Butyl(dimethyl)silyl]oxy}-3-fluorocyclohexyl methanesulfonate | CS(=O)(=O)OC1CC(C(CC1)O[Si](C)(C)C(C)(C)C)F | C13H27FO4SSi
